US07884109B2
N-(2,4-Dimethoxybenzyl)-5-fluoro-2-nitrobenzenamine.
A solution of 2,4-difluoro-1-nitrobenzene (1.1 mL), 2,4-dimethoxy benzylamine (1.5 mL) and DIEA (5.2 mL), in THF (40 mL) was heated at 60° C. for 60 min, allowed to cool to RT, partitioned between EtOAc and H2O, separated, dried (MgSO4), filtered and evaporated to yield the titled product as a yellow solid (3.14 g). 1H-NMR (300 MHz, CDCl3) δ 8.5 (br s, 1H), 7.2 (dd, 1H), 7.2 (d, 1H), 6.6-6.4 (m, 3H), 6.3 (m, 1H), 4.3 (d, 2H), 3.9 (s, 3H), 3.8 (s, 3H).

reactant | 2,4-difluoro-1-nitrobenzene | 1.1 mL | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2,4-dimethoxy benzylamine | 1.5 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | DIEA | 5.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-(2,4-Dimethoxybenzyl)-5-fluoro-2-nitrobenzenamine | 3.14 g | COC1=C(CNC2=C(C=CC(=C2)F)[N+](=O)[O-])C=CC(=C1)OC | C15H15FN2O4
